US04876357
140 g of 3-dimethylaminophenol are dissolved in 700 ml of dimethylformamide. 152 g of potassium carbonate and 28 g of potassium iodide are added. 101.8 g of chloroacetone are then added dropwise in the course of one hour; afterwards the mixture is stirred at room temperature for 20 hours. The reaction solution is filtered and the dimethylformamide and unconverted chloroacetone are distilled off (30° C., 1 mm Hg). Water is added to the residue, and the mixture is basified with concentrated sodium hydroxide solution and filtered. The crude product is taken up in 1 litre of ethanol, 115 ml of concentrate hydrochloric acid are added, and the mixture is heated to 80° C. 40 hours later the mixture is cooled down, treated with active carbon and filtered. The alcohol is removed, water is added to the residue, and the mixture is basified with concentrated sodium hydroxide solution. The crude product is filtered off and recrystallized from a mixture of hexane and diethyl ether (10:1) to give 36 g of 6-dimethylamino-3-methylbenzofurane.

reactant | 3-dimethylaminophenol | 140 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | potassium carbonate | 152 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 28 g | [I-].[K+]
reactant | chloroacetone | 101.8 g | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 6-dimethylamino-3-methylbenzofurane | 36 g | CN(C1=CC2=C(C(=CO2)C)C=C1)C | C11H13NO
